US07888347B2
6-Cyclobutyl-2-[1-(6-methyl-3-pyridinyl)-4-piperidinyl]-2,4,5,6,7,8-hexahydropyrazolo[3,4-d]azepine (E44)
1,1-Dimethylethyl 2-[1-(6-methyl-3-pyridinyl)-4-piperidinyl]-4,5,7,8-tetrahydropyrazolo[3,4-d]azepine-6(2H)-carboxylate (may be prepared as described in Description 50) (27 mg, 0.065 mmol) was stirred in trifluoroacetic acid (0.5 ml)/dichloromethane (1 ml) for 2 hours. Mixture was then diluted with methanol and passed through an SCX cartridge. A mixture of the product in dichloromethane (1.3 ml) was treated with cyclobutanone (0.010 ml, 0.13 mmol) followed by sodium triacetoxyborohydride (28 mg, 0.13 mmol) (about 5 min later). The resulting mixture was then stirred under Argon for 17.25 h. After an additional 1.25 hours, more dichloromethane (2.5 ml), cyclobutanone (0.030 ml) and then sodium triacetoxyborohydride (28 mg) were added and the mixture stirred for an additional 3.75 hours and then for an additional 2.5 hours. After a further 1 hour, more cyclobutanone (0.030 ml) followed by sodium triacetoxyborohydride (2 eq) were added and the resulting mixture left at room temperature under Ar for 16.75 hours. Then dichloromethane (2 ml) was added. Methanol was then added and the mixture purified by SCX eluting with methanol and then methanol/ammonia (2M). This material was purified by Mass Directed Autopreparation to give a product which was purified further by SCX eluting with methanol and then methanol/2M NH3 in methanol to afford the title compound (E44).

reactant | 1,1-Dimethylethyl 2-[1-(6-methyl-3-pyridinyl)-4-piperidinyl]-4,5,7,8-tetrahydropyrazolo[3,4-d]azepine-6(2H)-carboxylate | 0.065 mmol, 27 mg | CC1=CC=C(C=N1)N1CCC(CC1)N1N=C2CCN(CCC2=C1)C(=O)OC(C)(C)C | C23H33N5O2
reactant | cyclobutanone | 0.13 mmol, 0.010 ml | C1(CCC1)=O | C4H6O
reactant | sodium triacetoxyborohydride | 0.13 mmol, 28 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | cyclobutanone | 0.030 ml | C1(CCC1)=O | C4H6O
reactant | sodium triacetoxyborohydride | 28 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | cyclobutanone | 0.030 ml | C1(CCC1)=O | C4H6O
reactant | sodium triacetoxyborohydride | 2 eq | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | trifluoroacetic acid | 0.5 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | methanol | CO | CH4O
solvent | dichloromethane | 1.3 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 2.5 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 1 ml | ClCCl | CH2Cl2
product | 6-Cyclobutyl-2-[1-(6-methyl-3-pyridinyl)-4-piperidinyl]-2,4,5,6,7,8-hexahydropyrazolo[3,4-d]azepine | C1(CCC1)N1CCC=2C(CC1)=CN(N2)C2CCN(CC2)C=2C=NC(=CC2)C | C22H31N5
